US06242115B1
(1) 4-Bromo-N-phenylcarbazole
A reaction vessel was charged with 4.37 mmol (4.00 g) Pd2dba3, (dba=dibenzoylacetone), 6.55 mmol (3.63 g) dppf (dppf=diphenylphosphine ferrocene), and 400 ml dry toluene. Using a magnetic stir bar and hot plate, the mixture was stirred for 15 minutes under argon. Then 436 mmol (48.92 g) sodium t-butoxide was added against counter flow of argon and the reaction was stirred another 30 minutes. Then 291 mmol (48.66 g) carbazole with 873 mmol (205.96 g) 1,4-dibromobenzene were added and the reaction was heated to 100° C. for 16 hours. The reaction progress was followed by TLC until no carbazole could be detected. At end of reaction, the reaction mixture was taken up into water/ether (2:1). The mixture was then washed with water until the organic layer was colorless, then the solution was concentrated. The residue was dissolved in a mixture of toluene/hexane and passed through a short column of silica gel. The solvent was then removed from the column filtrate which yielded the product.

reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium t-butoxide | 436 mmol, 48.92 g | CC(C)([O-])C.[Na+]
reactant | carbazole | 291 mmol, 48.66 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 1,4-dibromobenzene | 873 mmol, 205.96 g | BrC1=CC=C(C=C1)Br | C6H4Br2
catalyst | Pd2dba3 | 4.37 mmol, 4.00 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | water ether | O.CCOCC
product | 4-Bromo-N-phenylcarbazole | BrC1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC=CC=C1 | C18H12BrN
